US04032527
A mixture of most of the 2-(2,4-bis(dimethylamino)-benzoyl)-3,4,5,6-tetrachlorobenzoic acid from part A of this example, N,N,N',N'-tetramethyl-m-phenylenediamine (0.82 g. plus 0.4 g.) and acetic anhydride was heated under reflux. Concentration of a toluene extract of the resulting product gave a tar, which was slurried in hexane, affording 3,3-bis(2,4-bis(dimethylamino)phenyl)-4,5,6,7-tetrachlorophthalide (I: X= Y2 = Y 4 = (CH3)2N, Z4 = Z5 = Z6 = Z7 = Cl) (m.p. 195°-197° C.).

reactant | 2-(2,4-bis(dimethylamino)-benzoyl)-3,4,5,6-tetrachlorobenzoic acid | CN(C1=C(C(=O)C2=C(C(=O)O)C(=C(C(=C2Cl)Cl)Cl)Cl)C=CC(=C1)N(C)C)C | C18H16Cl4N2O3
reactant | N,N,N',N'-tetramethyl-m-phenylenediamine | 0.82 g | CN(C1=CC(=CC=C1)N(C)C)C | C10H16N2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | hexane | CCCCCC | C6H14
product | 3,3-bis(2,4-bis(dimethylamino)phenyl)-4,5,6,7-tetrachlorophthalide | CN(C1=C(C=CC(=C1)N(C)C)C1(OC(=O)C2=C(C(=C(C(=C12)Cl)Cl)Cl)Cl)C1=C(C=C(C=C1)N(C)C)N(C)C)C | C28H30Cl4N4O2
